US06194406B1
Combine methyl 2-methoxy-5-acetamidobenzoate (2.23 g, 10 mmol) and tetrahydrofuran (1000 mL). Add Lawesson's reagent (2.02 g, 5 mmol). After 18 hours, evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 12% ethyl acetate/dichloromethane to give methyl 2-methoxy-5-thioacetamidobenzoate.

reactant | methyl 2-methoxy-5-acetamidobenzoate | 10 mmol, 2.23 g | COC1=C(C(=O)OC)C=C(C=C1)NC(C)=O | C11H13NO4
reactant | tetrahydrofuran | 1000 mL | O1CCCC1 | C4H8O
reactant | Lawesson's reagent | 5 mmol, 2.02 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | methyl 2-methoxy-5-thioacetamidobenzoate | COC1=C(C(=O)OC)C=C(C=C1)NC(C)=S | C11H13NO3S
